US09399640B2
Step 5. 2-Amino-4-bromo-3-phenoxyphenol
A solution of 4-bromo-2-nitro-3-phenoxyphenol (0.468 g, 1.51 mmol) in ethanol (11.2 mL, 192 mmol) was degassed with nitrogen and treated with a slurry of Raney Nickel 2800 in water (0.468 ml). The reaction mixture was degassed again with nitrogen and hydrogenated with a balloon of hydrogen for 30 min. The reaction suspension was diluted with dichloromethane and methanol and filtered through a pad of Celite. The pad of Celite was washed with ethyl acetate and dichloromethane and the filtrate was concentrated in vacuo to give brown oil. Purification by flash column chromatography (100% CH2Cl2 to 30% CH3CN/CH2Cl2 [CH3CN contained 5% MeOH]) gave the desired product (346 mg, 82%) as a tan solid. LCMS calculated for C12H11BrNO2 (M+H)+: m/z=280.0, 282.0. found: 280.0, 282.0.

reactant | 4-bromo-2-nitro-3-phenoxyphenol | 1.51 mmol, 0.468 g | BrC1=C(C(=C(C=C1)O)[N+](=O)[O-])OC1=CC=CC=C1 | C12H8BrNO4
reactant | ethanol | 192 mmol, 11.2 mL | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | 0.468 ml | O | H2O
product | 2-Amino-4-bromo-3-phenoxyphenol | 346 mg, 82% | NC1=C(C=CC(=C1OC1=CC=CC=C1)Br)O | C12H10BrNO2
